US04066648
A mixture of 5 g. of 1-chloromethyl-6,7-dimethoxyisochroman and 10 g of morpholine was heated at 150° C for 6 hours and, after cooling, the reaction mixture was concentrated under reduced pressure. The residue was diluted with 50 ml of water and extracted with chloroform. The extract was rinsed with water, dried and concentrated under reduced pressure. To the residue was added alcoholic hydrochloric acid and the resultant hydrochloride was crystallized by the addition of ethyl ether. The above procedure provided 5.1 g of 6,7-dimethoxy-1-morpholinoisochroman hydrochloride as colorless needles melting at 237°-239° C.

reactant | 1-chloromethyl-6,7-dimethoxyisochroman | ClCC1OCCC2=CC(=C(C=C12)OC)OC | C12H15ClO3
reactant | morpholine | 10 g | N1CCOCC1 | C4H9NO
product | 6,7-dimethoxy-1-morpholinoisochroman hydrochloride | 5.1 g | Cl.COC=1C=C2CCOC(C2=CC1OC)N1CCOCC1 | InChI=1S/C15H21NO4.ClH/c1-17-13-9-11-3-6-20-15(12(11)10-14(13)18-2)16-4-7-19-8-5-16;/h9-10,15H,3-8H2,1-2H3;1H
